US08865721B2
The 4-(N,N-diethylcarbamoyl)benzhydryl alcohol (61.35 g, 216.5 mmol) was dissolved in 1500 mL of dichloromethane and 23.69 mL (324.8 mmol) of thionyl chloride was added dropwise. The reaction solution was stirred overnight at room temperature and the solvent was removed under vacuum. The crude product was redissolved in 800 mL of toluene and the solvent again was removed under vacuum to eliminate excess thionyl chloride, providing crude 4-(N,N-diethylcarbamoyl)benzhydryl chloride as a dark oil. Crude yield=100%.

reactant | 4-(N,N-diethylcarbamoyl)benzhydryl alcohol | 216.5 mmol, 61.35 g | C(C)N(C(=O)C1=CC=C(C(C2=CC=CC=C2)O)C=C1)CC | C18H21NO2
reactant | thionyl chloride | 324.8 mmol, 23.69 mL | S(=O)(Cl)Cl | Cl2OS
solvent | dichloromethane | 1500 mL | ClCCl | CH2Cl2
product | 4-(N,N-diethylcarbamoyl)benzhydryl chloride | C(C)N(C(=O)C1=CC=C(C(C2=CC=CC=C2)Cl)C=C1)CC | C18H20ClNO
